US06590082B1
Into a 2 liter flask equipped with stirrer and temperature thermostat was charged octadecylamine (stearylamine, 18.9 grams, 0.07 mol; obtained from Sigma-Aldrich Co., Milwaukee, Wis.) followed with ethyl cyanoacetate (7.9 grams, 0.07 mol; obtained from Spectrum Chemicals, New Brunswick, N.J.). The resulting mixture was stirred and heated to 120° C. internal temperature for 1 hour. To the hot reaction mixture was then sequentially added ethyl acetoacetate (10.08 grams, 0.0775 mol; obtained from Lonza Group, Germany), piperidine (11.0 grams, 0.13 mol; obtained from Sigma-Aldrich Co.), and 60 milliliters of a solvent mixture containing 5 parts by weight toluene and 1 part by weight 1,2-dimethoxyethane. The reaction proceeded at 120° C. for another 24 hours. The solvents were then removed by distillation in vacuo, and the remaining viscous liquid was carefully poured into a solution of methanol (80 milliliters), deionized water (20 milliliters), and concentrated hydrochloric acid (16 milliliters, 2.5 mol). A solid precipitate formed instantly and the slurry was vacuum filtered followed by rinsing the solid cake with 2×50 milliliter portions of 80 percent aqueous methanol. The cake thus obtained was air-dried for 24 hours to afford 24.5 grams (0.061 mol, 87 percent yield) of N-stearyl pyridone product as light tan powder.

reactant | octadecylamine | 0.07 mol, 18.9 grams | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | ethyl cyanoacetate | 0.07 mol, 7.9 grams | C(#N)CC(=O)OCC | C5H7NO2
reactant | ethyl acetoacetate | 0.0775 mol, 10.08 grams | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | piperidine | 0.13 mol, 11.0 grams | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 2.5 mol, 16 milliliters | Cl | ClH
solvent | water | 20 milliliters | O | H2O
solvent | methanol | 80 milliliters | CO | CH4O
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-stearyl pyridone | 0.061 mol, 24.5 grams, 87 percent yield | C(CCCCCCCCCCCCCCCCC)N1C(C=CC=C1)=O | C23H41NO
